* LED Strip 24 x Osram 3.3V/500mA
* File: led_strip.lib

.model LEDOSRAM D(Is=1e-20 N=1.7 Rs=0.5 Cjo=50p)

.subckt LED_STRIP A K
X1 A N1 LEDOSRAM
X2 N1 N2 LEDOSRAM
X3 N2 N3 LEDOSRAM
X4 N3 N4 LEDOSRAM
X5 N4 N5 LEDOSRAM
X6 N5 N6 LEDOSRAM
X7 N6 N7 LEDOSRAM
X8 N7 N8 LEDOSRAM
X9 N8 N9 LEDOSRAM
X10 N9 N10 LEDOSRAM
X11 N10 N11 LEDOSRAM
X12 N11 N12 LEDOSRAM
X13 N12 N13 LEDOSRAM
X14 N13 N14 LEDOSRAM
X15 N14 N15 LEDOSRAM
X16 N15 N16 LEDOSRAM
X17 N16 N17 LEDOSRAM
X18 N17 N18 LEDOSRAM
X19 N18 N19 LEDOSRAM
X20 N19 N20 LEDOSRAM
X21 N20 N21 LEDOSRAM
X22 N21 N22 LEDOSRAM
X23 N22 N23 LEDOSRAM
X24 N23 K LEDOSRAM
.ends LED_STRIP